US06660753B2
In a similar fashion, a mixture of 3-(2-pyridyl)-5-(5-bromo-2-methoxyphenyl)-1,2,4-oxadiazole (110 mg, 0.331 mmol), pyridine-2-tributyltin (138.8 mg,0.663 mmole) and Pd(PPh3)4 (38.5 mg, 0.0333 mmole) in tetrahydrofuran (1 mL) was heated in a sealed vial overnight at 100° C. Standard work up afforded 13.9 mg (13%) 3-(2-pyridyl)-5-[2-methoxy-5-(2-pyridyl)phenyl]-1,2,4-oxadiazole.

reactant | 3-(2-pyridyl)-5-(5-bromo-2-methoxyphenyl)-1,2,4-oxadiazole | 0.331 mmol, 110 mg | N1=C(C=CC=C1)C1=NOC(=N1)C1=C(C=CC(=C1)Br)OC | C14H10BrN3O2
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.0333 mmole, 38.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(2-pyridyl)-5-[2-methoxy-5-(2-pyridyl)phenyl]-1,2,4-oxadiazole | 13.9 mg, 13% | N1=C(C=CC=C1)C1=NOC(=N1)C1=C(C=CC(=C1)C1=NC=CC=C1)OC | C19H14N4O2
